US05276049
1-[4-(1-Amino-cyclopropyl)-phenyl]-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one
Prepared from 1-[4-(1-tert.butyloxycarbonylaminocyclopropyl)-phenyl]-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one by stirring for two hours in a 1:1 mixture of methylene chloride and trifluoroacetic acid.

reactant | 1-[4-(1-tert.butyloxycarbonylaminocyclopropyl)-phenyl]-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | C(C)(C)(C)OC(=O)NC1(CC1)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | C27H33N3O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[4-(1-Amino-cyclopropyl)-phenyl]-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | NC1(CC1)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | C22H25N3O3
